US07622583B2
4-Chloro-3-methylaniline hydrochloride (75 g, 0.54 mol) was dissolved in 200 mL concentrated hydrochloride acid (200 mL) and acetic acid (60 mL). The mixture was cooled to −5° C. and NaNO2 (40.9 g, 0.59 mmol) was added. The mixture was stirred between −10° C. to −5° C. for 1 h. While the diazotization was in progress, glacial AcOH (600 mL) was placed in a 4000-mL beaker and stirred magnetically. Sulfur dioxide was introduced by a bubbler tube with a fritted end immersed below the surface of the AcOH until saturation was evident. Cuprous chloride (15 g) was added to the solution. The introduction of sulfur dioxide was continued until the yellow-green suspension becomes blue-green. The mixture was then placed in an ice bath and cooled to 10° C. The diazotization reaction mixture was subsequently added in portions over a 30 min period to the sulfur dioxide solution, ensuring the temperature of the solution did not exceed 30° C. After all the diazonium salt mixture was added, the mixture was poured into ice water (2 L). The resulting precipitate was filtered and re-dissolved in hexane (500 mL). The mixture was filtered through a pad of silica gel (100 g) and the filter pad was washed with hexane (300 mL). The combined filtrate was concentrated to yield 50 g of 4-chloro-3-methylbenzenesulfonyl chloride as slightly yellow solid.

reactant | 4-Chloro-3-methylaniline hydrochloride | 0.54 mol, 75 g | Cl.ClC1=C(C=C(N)C=C1)C
reactant | NaNO2 | 0.59 mmol, 40.9 g | N(=O)[O-].[Na+]
reactant | Sulfur dioxide | S(=O)=O | O2S
solvent | hydrochloride | 200 mL | Cl | ClH
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
solvent | AcOH | CC(=O)O | C2H4O2
solvent | AcOH | 600 mL | CC(=O)O | C2H4O2
product | 4-chloro-3-methylbenzenesulfonyl chloride | 50 g | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)C | C7H6Cl2O2S
